Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Failure to thrive
 
Major Surgical or Invasive Procedure:
Paracentesis
Liver biopsy
 
History of Present Illness:
Pt is a ___ yo woman with PMHx sig. for HTN, only recently 
started on atenolol 12.5 mg, who was called by PCP to go to the 
Emergency Department. Pt had first seen her PCP ___ ___ for 
mucous in her urine. Pt had a U/A sig. for lg ___, 7 WBC (but 9 
epi) and was started on a 7 day course of levofloxacin. CXR then 
showed no consolidation. WBC returned 17.1. Pt reported that the 
mucous in her urine had not resolved with the antibiotics. She 
denied any dysuria, urinary frequency, or back pain. On labs, pt 
was noted to have worsening leukocytosis (17.1->22.9), 
hypercalcemia, and hyponatremia and was directed to go to the 
ED.  
.  
In the ED, VS: T 97.7, HR 85, BP 170/98, R18, O2 sat 99RA. CXR 
showed new consolidation in LLL. Pt received azithro 500 mg, 
ceftriaxone 1 gm. Pt received 500 cc of NS.  
.  
ROS: Pt noted extreme fatigue starting ___ weeks ago. She has 
not had the energy to get out of bed much, had stopped grocery 
shopping, cooking. She lives with 2 of her children. She denies 
any fever, chills, night sweats. She has noted gradual weight 
loss in the past few years. She has also noted persistently dry 
mouth and drinks about 12 cups of water a day. She denies cough, 
SOB, CP, palpitations, abd pain, N/V/D/C. She has noted swelling 
in her feet bilaterally. She also reports that her feet have 
been cold the last few months.  
 
Past Medical History:
Hypertension
Pt has never had a mammogram, colonoscopy. 
 
Social History:
___
Family History:
Daughter with malignant fibroids; no other h/o cancer. Mother 
with CHF. Father with angina. 
 
Physical Exam:
T 98.2 BP 135/72 HR 79 RR 18 O2 sat 97% RA  
Gen: Older, cachetic woman in no acute distress, A&Ox3  
HEENT: conjunctiva clear, sclera nonicteric, MM slightly dry  
Neck: supple, no thyromegaly or thyroid nodules noted  
Onc: no cervical, supraclavicular, axillary, inguinal LAD noted; 
no breast masses noted.  
CV: RRR, ?S3 at L lower  
Lungs: Decreased BS at RLL, otherwise clear  
Abd: +BS, soft, nontender, mildly distended, firmness noted on R 
side ?hepatomegaly  
Back: no CVAT  
Ext: 2+ pedal edema at the feet to trace on calves, faint DP 
pulses, cool to touch bilaterally, good capillary refill  
Neuro: CNs II-XII grossly intact, MS ___ in BUEs and BLEs, DTRs 
2+/4 except 1+/4 in L patellar, down going babinski in L and 
equivocal on R, no gross sensory deficits.  
 
Pertinent Results:
Admission labs:
___ 04:25PM   WBC-23.5* RBC-5.75* HGB-13.8 HCT-42.9 MCV-75* 
MCH-24.0* MCHC-32.2 RDW-14.5
___ 04:25PM   NEUTS-88.8* BANDS-0 LYMPHS-6.7* MONOS-3.6 
EOS-0.6 BASOS-0.3
___ 04:25PM   PLT COUNT-377
___ 04:25PM   GLUCOSE-118* UREA N-24* CREAT-0.9 SODIUM-125* 
POTASSIUM-5.0 CHLORIDE-86* TOTAL CO2-25 ANION GAP-19
___ 04:25PM   CALCIUM-11.0* PHOSPHATE-2.5* MAGNESIUM-1.9
.
Imaging:
CHEST (PA & LAT)  ___
IMPRESSION: Findings suspicious for a left lower lobe pneumonia 
best visualized on the lateral radiograph. Followup radiography 
following therapy is recommended to assure and document 
resolution.
.
CT TORSO W/CONTRAST  ___ 
IMPRESSION:
1. Replacement of the normal hepatic parenchymal by innumerable 
lesions, measuring up to 11.3 cm, worrisome for hepatocellular 
carcinoma.
2. Multiple faint densities in both lungs may represent focal 
areas of scar. However, at least one nodule in the left upper 
lobe has a discrete appearance and attention is recommended on 
followup studies to exclude pulmonary metastasis.
3. Nonspecific thickening of the left adrenal gland, which may 
represent hyperplasia. However, again, attention is recommended 
on followup studies.
4. Lytic focus in the T8vertebral body. An osseous metastasis 
cannot be excluded.
5. Left thyroid nodule, which can be correlated with ultrasound 
if clinically indicated. 

Liver, targeted needle core biopsies:
     Poorly differentiated adenocarcinoma (see note).
 Note:  Immunohistochemical stains of the tumor are positive for 
cytokeratin 7, CAM5.2 and CKAE1/AE3. HepPar1 demonstrates 
intense staining of non-neoplastic hepatocytes, but does not 
stain the tumor cells (interpreted as representing high 
background staining). Unabsorbed (polyclonal) CEA demonstrates a 
focal canalicular pattern of staining (which is not obvious on 
CD10), however, this most likely represents staining of 
entrapped hepatocytes. ___ stains predominantly entrapped bile 
ducts.  TTF-1, S100, Mart 1, HMB45, mammoglobin and GCDFP are 
all negative. Interpretation of the immunostains is difficult 
overall secondary to the admixed normal hepatic elements; all 
controls are satisfactory.
 These findings support a diagnosis of poorly differentiated 
adenocarcinoma of pancreatic or biliary origin, including an 
intrahepatic cholangiocarcinoma. Given the absence of staining 
for TTF-1, metastasis from a lung primary is less likely. 
Further correlation with clinical and radiologic findings is 
recommended.  

Labs on Discharge:

___  WBC-23.0* RBC-5.49* Hgb-13.1 Hct-42.0 MCV-77* 
MCH-23.8* MCHC-31.0 RDW-16.1* Plt ___
___  Glucose-89 UreaN-20 Creat-0.7 Na-130* K-4.6 Cl-90* 
HCO3-27 AnGap-___/P: ___ yo woman with pmhx sig. for HTN who presents with 
fatigue, failure to thrive, leukocytosis, hyponatremia, 
hypercalcemia, and elevated lactate found to have large liver 
mass, consistent with metastatic pancreatic cancer.  
  
#) Liver mass: Albumin low at 3.0 on admission but other 
synthetic function wnl. Heme/onc followed during this admission. 
Ascites fluid cytology negative for malignancy. ___ positive 
at 426. Pathology results are consistent with pancreatic or 
other primary GI malginancy with liver metastases. Oncology 
recommended outpatient followup to further discuss palliative 
chemotherapy verses initiation of hospice.  Patient's daughter 
was informed of pathology results and had a lengthy discussion 
with the oncology team.  Follow up will be arranged by the 
daughter as she is considering a second opinion. A mammogram was 
ordered initially in the setting of unknown primary cancer and 
not performed prior to discharge.  In the setting of these 
pathology findings, there is no further need for a mammogram. 
.  
#) Failure to thrive, fatigue: Primary concern for solid organ 
malignancy, especially given CT torso findings. 
Leukemia/lymphoma given persistent leukocytosis was raised but 
differential without myelo/metas was reassuring. LFTs only mild 
elevated, with exception of alk phos elevation. Albumin slightly 
low at 3.0, ___ WNL. TSH mildly elevated, ft4 WNL. Liver 
biopsy results support primary GI malignancy that is metastatic 
with very poor prognosis. Patient was continued on ritalin, with 
patient noting improvement in fatigue. Patient appears to have 
good apetite, cachexia possibly from lack of access to food at 
home/hypermetabolic state.  Nutrition followed during this 
admission and recommended TID supplements with meals.  
.  
#) Leukocytosis: Pt recently finished 7 day course of 
levofloxacin for UTI. Repeat U/A on admission looked improved. 
CXR showed possible LLL consolidation in setting of pleural 
effusions; however, pt not complaining of SOB or cough. Pt has 
no other localizing sxs of infection. Pt remained afebrile. This 
is most likely reactive leukocytosis in the setting of 
malignancy instead. UA repeated on ___ in the setting of 
indwelling foley, showed yeast. Blood cultures from admission 
negative.   
.  
#) Hyponatremia: Improved with IVFs initially, then stopped 
though urine Na was really low suggesting dehydration. With 
trial of salt tabs without IVFs, there was little improvement. 
This is likely combination of volume depletion (improved with 
IVFs initially) and extra-renal loses given low urine Na 
(possible third spacing with ascites and pedal edema). ?SIADH 
with cortisol levels elevated and TSH mildly elevated with fT4 
wnl. It appears that this has been a chronic problem with 
hyponatremia noted ___ years ago, suggesting reset osmostat a 
possibility. Would accept high 120's/130 as appropriate goal NA 
in this patient. In the setting of improved sodium and net neg 
of 700cc on ___, discontinued lasix, IVF, and fluid restriction 
to observe on salt tabs alone and patient found to have decrease 
in Na from 133 -> 130. It was recommended at the time of 
discharge to continue 3gm salt daily, resume 1500cc fluid 
restriction and titrate fluid restriction as sodium requires.   
.  
#) Hypercalcemia: Found on admission. Improved with IVFs and has 
stabilized. Most likely ___ dehydration. Preliminary w/u was 
performed as outpatient. PTH is acutally normal, which is 
inappropriately elevated for level of calcium. ___ also be ___ 
malignancy. SPEP/UPEP were neg. Alk phos was noted to be high 
previously, suspicious for bony ___, though only 1 bony lesion 
noted on CT torso. Calcium and phosphate remained stable during 
the remainder of admission.  
.  
#) Peripheral edema: U/A showed no proteinuria. Pt does have 
mildly low albumin in the setting of poor nutrition. With 
improved nutritional status, anticipate improvement now that 
patient has excellent po intake as other synthetic functions of 
liver are normal.   
.  
#) Hypertension: Adequately controlled on current regimen with 
SBP 110-120. Patient discharged on home atenolol 25 mg dose. 
.  
# Bowel Incontinence - Patient initially unclear whether she is 
unable to make it to the toilet given deconditioning vs. unaware 
of urge. Use of stool softners likely complicating situation. 
She denies having this problem prior at home. No neuro deficit 
to explain findings with no evidence ___ in the L/S 
spine. Patient reports ability to make it commode on the day 
prior to discharge.  Decreased use of stool softeners and 
commode at bedside with further physical therapy will most 
likely result in resolution of this problem. 
.  
#) FEN: Monitored and repleted electrolytes, cardiac diet  
#) PPx: bowel regimen, heparin sq  
#) Code: Full - Code status not readdressed after pathology 
results. 
#) Communication: ___ (HCP, daughter) ___  
#) Dispo: to rehab and then likely home hospice.  

 
Medications on Admission:
Atenolol 12.5 mg
 
Discharge Medications:
1. Methylphenidate 5 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).  
2. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Sodium Chloride 1 gram Tablet Sig: 1.5 Tablets PO BID (2 
times a day).  
4. Nystatin 100,000 unit/g Cream Sig: One (1) Appl Topical BID 
(2 times a day).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Syndrome of Inappropriate anti-diuretic hormone
Poorly Differentiated Adenocarcinoma of the GI tract
Failure to thrive
.
Secondary:
Hypertension

 
Discharge Condition:
Stable, NA of 130

 
Discharge Instructions:
You were admitted with fatigue and abnormal lab values.  Your 
fatigue is likely due to hyponatremia and malginancy.  You were 
found to have a mass in your liver on a CT scan of your body.  A 
liver biospy revealed a cancer of your GI tract that was 
metastatic.  
.
For your fatigue, you were given Ritalin to try to increase your 
energy level.  Please continue taking twice daily.
.
For your hyponatremia (low sodium) you were given salt tablets.  
Please continue to take 3gm of salt tablets daily.
.
Please take your medications as prescribed.
.
If you develop fever, shortness of breath, chest discomfort, 
pain, or any concerning symptoms, please call your primary care 
physician ___ at ___.
 
Followup Instructions:
___